US06288082B1
4-(1H-Indazol-6-ylamino)-8-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 141, 328.0 mg (1.5 mmol) of 4-chloro-8-methoxy-3-quinolinecarbonitrile, 219.7 mg (1.65 mmol) of 6-aminoindazole and 105.6 mg (173.3 mmol) of pyridine hydrochloride in 15 mL of 2-ethoxyethanol was heated at 100° C. for 2 hr. The work up gave 373.8 mg (79%) of the product as a yellow solid, m.p. 242° C. (dec.), mass (electrospray, m/e): M+H 315.9. HRCIMS: calcd 315.112 for C18H13N5O (M+), obsd 315.1126.

reactant | 4-chloro-8-methoxy-3-quinolinecarbonitrile | 1.5 mmol, 328.0 mg | ClC1=C(C=NC2=C(C=CC=C12)OC)C#N | C11H7ClN2O
reactant | 6-aminoindazole | 1.65 mmol, 219.7 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | pyridine hydrochloride | 173.3 mmol, 105.6 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(1H-Indazol-6-ylamino)-8-methoxy-quinoline-3-carbonitrile | N1N=CC2=CC=C(C=C12)NC1=C(C=NC2=C(C=CC=C12)OC)C#N | C18H13N5O
